US06544985B2
8-Chloro-7-dimethylamino-4-[3-(3-methoxymethyl-isoxazol-5-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (4-chloro-5-dimethylamino-2-{3-[3-(3-methoxymethyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert.-butyl ester (Example M20) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (157 mg).

reactant | (4-chloro-5-dimethylamino-2-{3-[3-(3-methoxymethyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)COC)=O)=O | C27H31ClN4O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-7-dimethylamino-4-[3-(3-methoxymethyl-isoxazol-5-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NO2)COC)=O)C1)N(C)C | C22H21ClN4O3
